US05418233
2-[4-[N-(Benzyloxycarbonyl)-amidino]-phenyl]-5-[4-[(benzyloxycarbonyl)-methyl]-4-hydroxy-piperidinocarbonyl]-pyrimidine
Prepared by reacting 2-[4-[N-(benzyloxycarbonyl)-amidino]-phenyl]-5-carboxy-pyrimidine with 1.2 equivalents of N,N-carbonyl-diimidazole in dimethylformamide at 5° C. followed by the addition of 1.2 equivalents of 4-[(benzyloxycarbonyl)-methyl]-4-hydroxy-piperidine-hydrochloride and 1.2 equivalents of N-methylmorpholine at ambient temperature.

reactant | 2-[4-[N-(benzyloxycarbonyl)-amidino]-phenyl]-5-carboxy-pyrimidine | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O | C20H16N4O4
reactant | 4-[(benzyloxycarbonyl)-methyl]-4-hydroxy-piperidine-hydrochloride | 1.2 equivalents | Cl.C(C1=CC=CC=C1)OC(=O)CC1(CCNCC1)O
reactant | N-methylmorpholine | 1.2 equivalents | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-[N-(Benzyloxycarbonyl)-amidino]-phenyl]-5-[4-[(benzyloxycarbonyl)-methyl]-4-hydroxy-piperidinocarbonyl]-pyrimidine | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)N1CCC(CC1)(O)CC(=O)OCC1=CC=CC=C1 | C34H33N5O6
